US07378520B2
1-Iodo-4-(1,1-dimethoxymethyl)benzene (20).
A solution of 4-iodobenzaldehyde (10.0 g, 43.1 mmol) in MeOH (150 mL) was treated with TiCl4 (80 μL, 430 μmol) under argon for 15 min. TEA (0.2 mL) was added. After 15 min, water and Et2O were added. The organic layer was collected, dried (Na2SO4), filtered, and concentrated to give a pale yellow oil (11.5 g, 96%): 1H NMR δ 3.30 (s, 6H), 5.34 (s, 1H), 7.19 (d, J=8.4 Hz, 2H), 7.70 (d, J=8.4 Hz, 2H); 13C NMR δ 52.4, 94.3, 102.1, 128.6, 137.1, 137.6.

reactant | 4-iodobenzaldehyde | 43.1 mmol, 10.0 g | IC1=CC=C(C=O)C=C1 | C7H5IO
reactant | water | O | H2O
reactant | Et2O | CCOCC | C4H10O
reactant | MeOH | 150 mL | CO | CH4O
catalyst | TiCl4 | 430 μmol, 80 μL | Cl[Ti](Cl)(Cl)Cl
product | 1-Iodo-4-(1,1-dimethoxymethyl)benzene | 11.5 g, 96% | IC1=CC=C(C=C1)C(OC)OC | C9H11IO2
